US06004959
5-isopropoxy-2-propoxy-4-methoxy-fluoren-9-one
Prepare LDA reagent by reacting n-butyl lithium and diisopropylamine as in Example 7C to obtain 0.05 mole in THF (50 mL) at 0° C. At 0° C., dropwise add N,N-diethyl-6-isopropyloxy-2'-methoxy-4'-propyloxy-biphenyl-2-carboxamide (4.3 g, 0.011 mole) in THF (20 mL). Warm the mixture to ambient temperature, stir for 1 hour then heat to reflux for 1.5 hours. Workup the mixture as in Example 7C and chromatograph eluting with 50%/50% EtOAc/hexane to give the title compound as a red solid (2.6 g, 63%). m.p. 114°-116° C.

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | n-butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | N,N-diethyl-6-isopropyloxy-2'-methoxy-4'-propyloxy-biphenyl-2-carboxamide | 0.011 mole, 4.3 g | C(C)N(C(=O)C=1C(=C(C=CC1)OC(C)C)C1=C(C=C(C=C1)OCCC)OC)CC | C24H33NO4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-isopropoxy-2-propoxy-4-methoxy-fluoren-9-one | 2.6 g, 63% | C(C)(C)OC1=C2C=3C(=CC(=CC3C(C2=CC=C1)=O)OCCC)OC | C20H22O4
